US08536164B2
Step 6: Preparation of 1-(4-fluorophenyl)-2-(3-fluoropyridin-4-yl)ethanone
Lithium hexamethyldisilazide (1.0M in THF, 17.9 mL, 17.9 mmol) was cooled to 0° C. and 3-fluoro-4-methylpyridine (1.00 g, 0.926 mmol) in THF (50 mL) was added dropwise, keeping the solution temperature below 5° C. The mixture was then stirred for 1 hour at 0° C. and ethyl 4-fluorobenzoate in THF (50 mL) was added dropwise. The reaction was allowed to warm slowly to rt with stirring overnight. Aqueous ammonium chloride was added and the mixture was poured into EtOAc. The organic phase was separated dried (Na2SO4) and concentrated. Silica gel chromatography using a 10-50% EtOAc/heptanes gradient yielded 1.83 g (89%) of Ex 1-Step 6 product as a white solid: LCMS m/z 234.4 (M+1); 1H NMR (400 MHz, MeOH-d4) δ 8.41 (d, J=1.7 1H), 8.32 (d, J=4.8, 1H), 8.14 (dd, J=8.9, 5.4, 2H), 7.38 (dd, J=5.9, 5.1, 1H), 7.25 (dd, J=9.0, 9.0, 2H), 4.52 (s, 2H).

reactant | Lithium hexamethyldisilazide | 17.9 mmol, 1.0M, 17.9 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 3-fluoro-4-methylpyridine | 0.926 mmol, 1.00 g | FC=1C=NC=CC1C | C6H6FN
reactant | ethyl 4-fluorobenzoate | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(4-fluorophenyl)-2-(3-fluoropyridin-4-yl)ethanone | FC1=CC=C(C=C1)C(CC1=C(C=NC=C1)F)=O | C13H9F2NO
